US05821243
(a) Preparation of Ethyl 3-(4-(2-tetrazolyl)-phenvlhvdrazino)-4-oxopentanoate
A solution of 1.06 gm. (6.58 mmoles) of 2-(4-aminophenyl)tetrazole in 20 ml. of ethanol and 1.18 ml. of concentrated hydrochloric acid and 10 ml. of water was cooled in an ice bath and treated dropwise with a solution of 500 mg. of sodium nitrite in 10 ml. of water. After the addition of an additional 10 ml. of water, the mixture was stirred for 25 minutes at room temperature. The mixture was then added to a solution of 1.35 gm. (7.2 mmoles) of ethyl 3-acetyl-4-oxopentanoate and 2.66 ml. of pyridine in 15 ml. of ethanol. A solid began to separate. After 1 hour, 10 ml. of 1 M hydrochloric acid was added to adjust the pH to 2-3. An additional 50 ml. of water was added and the solid was collected and washed thoroughly with water and dried. 1.74 g. was obtained.

reactant | 2-(4-aminophenyl)tetrazole | 6.58 mmoles | NC1=CC=C(C=C1)N1N=CN=N1 | C7H7N5
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | ethyl 3-acetyl-4-oxopentanoate | 7.2 mmoles | C(C)(=O)C(CC(=O)OCC)C(C)=O | C9H14O4
solvent | ethanol | C(C)O | C2H6O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | Ethyl 3-(4-(2-tetrazolyl)-phenvlhvdrazino)-4-oxopentanoate | N=1N(N=NC1)C1=CC=C(C=C1)NNC(CC(=O)OCC)C(C)=O | C14H18N6O3
